US07060707B2
Resin-bound Fmoc-Gly-1,2,3,4-tetrahydroisoquinolin-3-ylacetic acid
0.072 mmol of A is washed with DMF (1×2 ml). The compound is subsequently deprotected twice using 20% of piperidine in DMF (2×2 ml), firstly for 5 minutes and then for 15 minutes, and washed with DMF (6×2 ml). An approximately 0.1M solution of 2.5 equivalents (based on the resin loading, 0.18 mmol) of Fmoc-glycine, 2.4 equivalents (0.17 mmol) of HATU and 30 equivalents (2.16 mmol) of sym-collidine in dry DMF is added to the resin-bound free amine, and the mixture is shaken at room temperature for 90 minutes. The reaction is terminated by washing in DMF (6×2 ml).

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | Fmoc-glycine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)NCC(=O)O | C17H15NO4
reactant | HATU | 0.17 mmol, 2.4 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | sym-collidine | 2.16 mmol, 30 equivalents | CC1=CC(=NC(=C1)C)C | C8H11N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Fmoc-Gly 1,2,3,4-tetrahydroisoquinolin-3-ylacetic acid | N(CC(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12.C1NC(CC2=CC=CC=C12)CC(=O)O | InChI=1S/C17H15NO4.C11H13NO2/c19-16(20)9-18-17(21)22-10-15-13-7-3-1-5-11(13)12-6-2-4-8-14(12)15;13-11(14)6-10-5-8-3-1-2-4-9(8)7-12-10/h1-8,15H,9-10H2,(H,18,21)(H,19,20);1-4,10,12H,5-7H2,(H,13,14)
